US06228972B1
In a 1 liter flask were charged 1-fluoro-2,4-dinitrobenzene (40.94 g, 0.22 mol), triethylamine (24.29 g, 0.24 mol), 1-decanol (34.82 g, 0.22 mol), 220 g of N,N-dimethylacetamide and stirred at room temperature for 24 hours under a nitrogen atmosphere. The resultant etherified product was extracted with 1 liter of ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and the solvent was distilled off to obtain crude product. Isolation and purification of the target product by silica gel chromatography afforded 57.80 g (yield: 81%) of 4-decyloxy-1,3-dinitrobenzene as yellow crystals.

reactant | 1-fluoro-2,4-dinitrobenzene | 0.22 mol, 40.94 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | triethylamine | 0.24 mol, 24.29 g | C(C)N(CC)CC | C6H15N
reactant | 1-decanol | 0.22 mol, 34.82 g | C(CCCCCCCCC)O | C10H22O
solvent | N,N-dimethylacetamide | 220 g | CN(C(C)=O)C | C4H9NO
product | 4-decyloxy-1,3-dinitrobenzene | 57.80 g, yield: 81% | C(CCCCCCCCC)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C16H24N2O5
